US07910735B2
Production of 3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (Compound No. 2-10)
3-Isobutyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline (1.6 g, 5 mmol) was dissolved in a 28% by weight methanol solution (9.6 g) of sodium methoxide and stirred under heating for 3 hours. After cooling, the reaction solution was poured into ice water, followed by extracting with ethyl acetate and washing with water. The solution was dried over magnesium sulfate and concentrated under reduced pressure, and then the residue was purified by using silica gel chromatography (hexane:ethyl acetate=5:1) to obtain 1.31 g of the desired compound.

reactant | 3-Isobutyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline | 5 mmol, 1.6 g | C(C(C)C)C=1C=C(N)C=CC1C(C(F)(F)F)(C(F)(F)F)F | C13H14F7N
reactant | methanol | 9.6 g | CO | CH4O
solvent | sodium methoxide | C[O-].[Na+]
product | 3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 1.31 g, Yield: 79% | C(C(C)C)C=1C=C(N)C=CC1C(C(F)(F)F)(C(F)(F)F)OC | C14H17F6NO
